US04352811
2-Methylindol-3-ylpropanol
A solution of 27.3 g of ethyl (2-methylindol-3-yl)propionate and 100 ml of tetrahydrofuran was added slowly to a suspension of 4.3 g of lithium aluminum hydride and 120 ml of tetrahydrofuran, with stirring. After the addition was complete, the reaction mixture was heated under reflux for 2 hrs, and cooled in an ice bath. Water (17 ml) was added cautiously at ice-bath temperature. The mixture was filtered and the filtrated was concentrated. Distillation of the residue at 0.2 mm gave 15.6 g (68.8%) of product, bp 180°.

reactant | ethyl (2-methylindol-3-yl)propionate | 27.3 g | CC=1NC2=CC=CC=C2C1C(C(=O)OCC)C | C14H17NO2
reactant | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
reactant | lithium aluminum hydride | 4.3 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | tetrahydrofuran | 120 ml | O1CCCC1 | C4H8O
reactant | Water | 17 ml | O | H2O
product | 2-Methylindol-3-ylpropanol | 15.6 g, 68.8% | CC=1NC2=CC=CC=C2C1C(CC)O | C12H15NO
